US06586617B1
Synthesis of 5-Chloro-N-(2-cyano-4-nitrophenyl)-N-methoxy-2-thiophenesulfonamide (Compound No. 537)
To a solution of 5-chloro-N-methoxy-2-thiophenesulfonamide (0.46 g (2.02 mmol)) and 2-chloro-5-nitrobenzonitrile (0.45 g (2.46 mol)) in DMF (3.0 ml), sodium hydride (60%, 0.09 g (2.25 mmol)) was added bit by bit under cooling with ice and with stirring and the mixture was stirred under cooling with ice for one hour and at room temperature for one hour. Water was added to the reaction mixture and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel chromatography with ethyl acetate-hexane (1:3) as eluent to give 0.41 g (54%) of the title compound as pale yellow crystals.

reactant | 5-chloro-N-methoxy-2-thiophenesulfonamide | 2.02 mmol, 0.46 g | ClC1=CC=C(S1)S(=O)(=O)NOC | C5H6ClNO3S2
reactant | 2-chloro-5-nitrobenzonitrile | 2.46 mol, 0.45 g | ClC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | sodium hydride | 2.25 mmol, 0.09 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
product | 5-Chloro-N-(2-cyano-4-nitrophenyl)-N-methoxy-2-thiophenesulfonamide | 0.41 g, 54% | ClC1=CC=C(S1)S(=O)(=O)N(OC)C1=C(C=C(C=C1)[N+](=O)[O-])C#N | C12H8ClN3O5S2
